US03972888
5 g of 4-methyl-6-(4-chlorobenzyl)-2-pyrone, 2.5 g of hydroxylamine hydrochloride and 10 g of 2-aminopyridine were heated for 16 hours to 60°C. After the usual working up, there were obtained 3.3 g (62 %) of 1-hyroxy-4-methyl-6-(4-chlorobenzyl)-2-pyridone melting at 142° C (Calc.: 5.6% N, found 5.9 % N).

reactant | 4-methyl-6-(4-chlorobenzyl)-2-pyrone | 5 g | CC1=CC(OC(=C1)CC1=CC=C(C=C1)Cl)=O | C13H11ClO2
reactant | hydroxylamine hydrochloride | 2.5 g | Cl.NO
reactant | 2-aminopyridine | 10 g | NC1=NC=CC=C1 | C5H6N2
product | 1-hyroxy-4-methyl-6-(4-chlorobenzyl)-2-pyridone | 3.3 g | ON1C(C=C(C=C1CC1=CC=C(C=C1)Cl)C)=O | C13H12ClNO2
